US05864039
cis-4-Amino-5-chloro-2-methoxy-N-((3-methoxypiperidin-4-yl)methyl)-benzamide dihydrochloride (0.88 g) as a starting compound, 6-bromo-1-phenyl-1-hexanone (0.67 g) and potassium carbonate (1.37 g) were reacted and purified in the same manner as in Example 172 to give 0.67 g of cis-4-amino-5-chloro-2-methoxy-N-((3-methoxy-1-(6-oxo-6-phenylhexyl)-piperidin-4-yl)methyl)benzamide, m.p. 99°-101° C.

reactant | cis-4-Amino-5-chloro-2-methoxy-N-((3-methoxypiperidin-4-yl)methyl)-benzamide dihydrochloride | 0.88 g | Cl.Cl.NC1=CC(=C(C(=O)NC[C@@H]2[C@@H](CNCC2)OC)C=C1Cl)OC
reactant | 6-bromo-1-phenyl-1-hexanone | 0.67 g | BrCCCCCC(=O)C1=CC=CC=C1 | C12H15BrO
reactant | potassium carbonate | 1.37 g | C([O-])([O-])=O.[K+].[K+]
product | cis-4-amino-5-chloro-2-methoxy-N-((3-methoxy-1-(6-oxo-6-phenylhexyl)-piperidin-4-yl)methyl)benzamide | 0.67 g | NC1=CC(=C(C(=O)NC[C@@H]2[C@@H](CN(CC2)CCCCCC(C2=CC=CC=C2)=O)OC)C=C1Cl)OC | C27H36ClN3O4
